US08183242B2
Preparation of 4-[(4-methylpiperazin-1-yl)methyl]-N-{5-methyl-4-[(4-(pyrid-3-yl)pyrimid-2-yl)amino]pyrid-2-yl}-3-(trifluoromethyl)benzamide
To a flask was added N-(4-amino-5-methylpyridin-2-yl)-4-[(4-methylpiperazin-1-yl)methyl]-3-(trifluoromethyl)benzamide (7.1 g), 2-mesyl-4-(3-pyridyl)pyrimidine (5.0 g) and DMF (50 mL). After the solution was cooled to about 0° C., sodium hydride (60%, 1.5 g) was added in several portions and the reaction was stirred at the same temperature for 2 hours, then warmed up to room temperature for 1 hour. A mixture solvent of chloroform/methanol (30:1, 100 mL) was added and the PH value was adjusted to 7 using 10% citric acid. The aqueous phase was extracted, then the organic combined phase was washed with brine, dried, filtered, concentrated and Purified through column chromatography to give the title compound.

reactant | N-(4-amino-5-methylpyridin-2-yl)-4-[(4-methylpiperazin-1-yl)methyl]-3-(trifluoromethyl)benzamide | 7.1 g | NC1=CC(=NC=C1C)NC(C1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F)=O | C20H24F3N5O
reactant | 2-mesyl-4-(3-pyridyl)pyrimidine | 5.0 g | S(=O)(=O)(C)C1=NC=CC(=N1)C=1C=NC=CC1 | C10H9N3O2S
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | chloroform methanol | 100 mL | C(Cl)(Cl)Cl.CO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-[(4-methylpiperazin-1-yl)methyl]-N-{5-methyl-4-[(4-(pyrid-3-yl)pyrimid-2-yl)amino]pyrid-2-yl}-3-(trifluoromethyl)benzamide | CN1CCN(CC1)CC1=C(C=C(C(=O)NC2=NC=C(C(=C2)NC2=NC=CC(=N2)C=2C=NC=CC2)C)C=C1)C(F)(F)F | C29H29F3N8O
